US07723378B2
A solution of 4-bromo-3,5-dimethyl-benzaldehyde (8.15 g, 38.25 mmol), p-toluenesulfonic acid (50 mg) and 1,3-propanediol (9.5 mL) in toluene (100 mL) is heated to 110° C. for 3 h. The reaction flask is equipped with a Dean-Stark apparatus and heating is continued at 110° C. for 16 h. The reaction mixture is cooled to rt, washed with sat. aq. NaHCO3 and the solvent is removed in vacuo. The crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to give 2-(4-bromo-3,5-dimethyl-phenyl)-[1,3]dioxane (5.97 g) as a colourless oil.

reactant | 4-bromo-3,5-dimethyl-benzaldehyde | 38.25 mmol, 8.15 g | BrC1=C(C=C(C=O)C=C1C)C | C9H9BrO
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,3-propanediol | 9.5 mL | C(CCO)O | C3H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromo-3,5-dimethyl-phenyl)-[1,3]dioxane | 5.97 g | BrC1=C(C=C(C=C1C)C1OCCCO1)C | C12H15BrO2
